US08609656B2
Preparation of 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-indole-5-carboxylic acid methylamide (Table 1, Compound No. 11)
The title compound can be synthesized from 1-(4-aminophenyl)-1H-indole-5-carboxylic acid methylamide and 4-chloro-3-(trifluoromethyl)phenyl isocyanate in the same manner as in Step C in Example 1.

reactant | 1-(4-aminophenyl)-1H-indole-5-carboxylic acid methylamide | CNC(=O)C=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)N | C16H15N3O
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-indole-5-carboxylic acid methylamide | CNC(=O)C=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C24H18ClF3N4O2
